US08003800B2
To a solution of 4-(2-tert-butoxycarbonyl-ethyl)-3,5-dimethyl-benzoic acid methyl ester (10.8 g, 37.0 mmol) in ethanol (100 mL) a 2 M aq. solution of LiOH (50 mL) is added at 0° C. The turbid mixture is stirred at 0° C. for 30 min, then at rt for 4 h. The mixture is diluted with 10% aq. citric acid solution and extracted three times with diethyl ether. The combined organic extracts are dried over MgSO4, filtered and concentrated. The solid residue is suspended in diethyl ether/heptane, stirred at rt, and filtered. The slurry procedure in diethyl ether/heptane is repeated. The solid material is collected and dried under HV to give 4-(2-tert-butoxycarbonyl-ethyl)-3,5-dimethyl-benzoic acid (5.09 g) as a white crystalline powder; LC-MS: tR=0.95 min, [M+1]+=279.14; 1H NMR (CDCl3): δ 1.47 (s, 9 H), 2.30-2.40 (m, 2 H), 2.39 (s, 6 H), 2.94-3.03 (m, 2 H), 7.75 (s, 2 H).

reactant | 4-(2-tert-butoxycarbonyl-ethyl)-3,5-dimethyl-benzoic acid methyl ester | 37.0 mmol, 10.8 g | COC(C1=CC(=C(C(=C1)C)CCC(=O)OC(C)(C)C)C)=O | C17H24O4
reactant | LiOH | 50 mL | [Li+].[OH-]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 4-(2-tert-butoxycarbonyl-ethyl)-3,5-dimethyl-benzoic acid | 5.09 g | C(C)(C)(C)OC(=O)CCC1=C(C=C(C(=O)O)C=C1C)C | C16H22O4
